US07557213B2
Preparation of 1-(3-Chloro-benzyl)-3-(6-methoxy-5-methyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 119 mg (0.33 mmol) of 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 183 mg (0.73 mmol) of 5-iodo-2-methoxy-3-methyl-pyridine in 1 mL THF with 0.38 mL 2M isopropylmagnesium chloride. Yield: 86 mg of a white powder. LC-MSD, m/z for C24H19ClN2O3 [M+H]+=419.1, 421.1; HPLC retention time: 3.1 min.

reactant | 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.33 mmol, 119 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC(=CC=C1)Cl)C | C19H17ClN2O3
reactant | 5-iodo-2-methoxy-3-methyl-pyridine | 0.73 mmol, 183 mg | IC=1C=C(C(=NC1)OC)C | C7H8INO
reactant | isopropylmagnesium chloride | 2M, 0.38 mL | C(C)(C)[Mg]Cl
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloro-benzyl)-3-(6-methoxy-5-methyl-pyridine-3-carbonyl)-1H-quinolin-4-one | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=C(C2)C)OC)C=CC1 | C24H19ClN2O3
